US07723378B2
At 0° C., a solution of 2-acetyl-4,4-dimethyl-cyclohexanone (5.00 g, 29.7 mmol) in chloroform (15 mL) is treated with oxalyl chloride (7.54 g, 59.4 mmol). The mixture is heated to 60° C. and stirred for 15 min before it is poured onto water. The organic phase is separated, washed with sat. aq. NaHCO3 solution and brine, dried over MgSO4 and evaporated to dryness to give crude 2-(1-chloro-ethylidene)-4,4-dimethyl-cyclohexanone (3.2 g, containing regio-isomer) as a brown oil, LC-MS: tR=1.00 min.

reactant | 2-acetyl-4,4-dimethyl-cyclohexanone | 29.7 mmol, 5.00 g | C(C)(=O)C1C(CCC(C1)(C)C)=O | C10H16O2
reactant | oxalyl chloride | 59.4 mmol, 7.54 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(1-chloro-ethylidene)-4,4-dimethyl-cyclohexanone | 3.2 g | ClC(C)=C1C(CCC(C1)(C)C)=O | C10H15ClO
